US07179823B1
A mixture of ethyl 3-[3-ethoxy-1-(4-hydroxybenzyl)-1H-pyrazol-4-yl]propionate (1.20 g), 4-chloromethyl-5-methyl-2-phenylthiazole (0.95 g), potassium carbonate (1.06 g), and N,N-dimethylformamide (20 ml) was stirred at room temperature overnight. The reaction mixture was poured into water, which was extracted with ethyl acetate. The ethyl acetate layer was washed with water, then, with saturated aqueous sodium chloride solution, and dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography, and a colorless oily substance was obtained from the fraction eluted with ethyl acetate-hexane (1:2, volume ratio). A mixture of the obtained oily substance, 1 N aqueous sodium hydroxide solution (10 ml), tetrahydrofuran (10 ml), and ethanol (10 ml) was stirred at room temperature for two hours, diluted with 1 N hydrochloric acid (10 ml), and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. The obtained colorless crystals were collected by filtration, and 3-[3-ethoxy-1-[4-(5-methyl-2-phenyl-4-thiazolylmethoxy)benzyl]-1H-pyrazol-4-yl]propionic acid (1.46 g, yield: 81%) was obtained. This was recrystallized from ethyl acetate-hexane. Melting point: 73–74%.

reactant | ethyl 3-[3-ethoxy-1-(4-hydroxybenzyl)-1H-pyrazol-4-yl]propionate | 1.20 g | C(C)OC1=NN(C=C1CCC(=O)OCC)CC1=CC=C(C=C1)O | C17H22N2O4
reactant | 4-chloromethyl-5-methyl-2-phenylthiazole | 0.95 g | ClCC=1N=C(SC1C)C1=CC=CC=C1 | C11H10ClNS
reactant | potassium carbonate | 1.06 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-[3-ethoxy-1-[4-(5-methyl-2-phenyl-4-thiazolylmethoxy)benzyl]-1H-pyrazol-4-yl]propionic acid | 1.46 g, yield: 81% | C(C)OC1=NN(C=C1CCC(=O)O)CC1=CC=C(C=C1)OCC=1N=C(SC1C)C1=CC=CC=C1 | C26H27N3O4S
